US06833378B2
2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1-formyl-propylamino)-6-methyl-nicotinic acid methyl ester
The title compound was prepared by Dess-Martin oxidation of 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-hydroxymethyl-propylamino)-6-methyl-nicotinic acid methyl ester. The title compound was obtained after column chromatography. 1H NMR (CDCl3) 9.54(d,1H), 8.56(d,1H), 7.01(s,2H), 5.93(s,1H), 3.92(m,1H), 3.89(s,3H), 2.08(s,3H), 2.05(s,6H), 1.05(t,3H) ppm.

reactant | Dess-Martin | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-hydroxymethyl-propylamino)-6-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(CC)CO)C)OC1=C(C=C(C=C1C)Cl)C)=O | C20H25ClN2O4
product | 2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1-formyl-propylamino)-6-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(CC)C=O)C)OC1=C(C=C(C=C1C)Cl)C)=O | C20H23ClN2O4
